US06316482B1
A suspension of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (100 mg) in acetic acid (1 ml) was refluxed for 8 hours. After being evaporated in vacuo, the residue was dissolved chloroform and the solution was washed with water and saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylamino-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (84 mg) as a powder.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 100 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylamino-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 84 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)C | C36H44N6O5
